US06610847B2
4Chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine
To a stirred solution of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (30 g/0.02 mol) dissolved in 80 mL of chloroform was added 4.5 g (0.02 mol) of N-iodosuccinimide and the resulting mixture heated at reflux for 1 h. After cooling to room temperature, the percipitate was removed by flitration and dried under reduced pressure affording 4.6 g (82%) of the title compound.

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 0.02 mol, 30 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | N-iodosuccinimide | 0.02 mol, 4.5 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
product | 4Chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine | 4.6 g, 82% | ClC=1C2=C(N=CN1)NC=C2I | C6H3ClIN3
